US05302720
A suspension of N-(2-biphenylyl)thiourea (7.8 g) in water (60 ml) was reacted with a solution of potassium hydroxide (19.15 g) in water (60 ml), lead acetate trihydrate (12.96) in water (60 ml) was added and the reaction mixture heated at 90°-95° C. for 30 minutes and filtered. The filtrate was acidified with acetic acid with cooling to yield 2-biphenylylcyanamide as a colourless solid (m.p. 85°-87° C.).

reactant | N-(2-biphenylyl)thiourea | 7.8 g | C1(=C(C=CC=C1)NC(=S)N)C1=CC=CC=C1 | C13H12N2S
reactant | potassium hydroxide | 19.15 g | [OH-].[K+]
solvent | water | 60 ml | O | H2O
solvent | water | 60 ml | O | H2O
solvent | lead acetate trihydrate | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | water | 60 ml | O | H2O
product | 2-biphenylylcyanamide | C1(=C(C=CC=C1)NC#N)C1=CC=CC=C1 | C13H10N2
